US08222248B2
To a stirred suspension of 2-(2-chloro-6-trifluoromethylphenyl)-3H-benzoimidazole-5-carboxylic acid (400 mg, 1.18 mmol) in SOCl2 (10 mL) was added 3 drops of DMF and the suspension was stirred at ambient temperature overnight. The suspension was filtered and washed with CH2Cl2 and the white solid was dried in under reduced pressure to give 2-(2-chloro-6-trifluoromethylphenyl)-3H-benzoimidazole-5-carbonyl chloride.

reactant | 2-(2-chloro-6-trifluoromethylphenyl)-3H-benzoimidazole-5-carboxylic acid | 1.18 mmol, 400 mg | ClC1=C(C(=CC=C1)C(F)(F)F)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C15H8ClF3N2O2
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-(2-chloro-6-trifluoromethylphenyl)-3H-benzoimidazole-5-carbonyl chloride | ClC1=C(C(=CC=C1)C(F)(F)F)C=1NC2=C(N1)C=CC(=C2)C(=O)Cl | C15H7Cl2F3N2O
